US08686152B2
To a solution of 4-biphenyl-4-ylmethyl-piperidine-4-carboxylic acid cyclohexylmethylamide (3.98 mmol; 1.7 g) in DMF (20 mL) was added (S)-2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionic acid (4.63 mmol; 1.26 g), N,N-diisopropyl-N-ethylamine (13.9 mmol; 2.46 mL) and HBTU (6.02 mmol; 2.28 g), and the resulting mixture was stirred at room temperature overnight. The resulting mixture was then purified via reverse phase HPLC and the desired fractions were combined and lyophilized. The residue was dissolved in THF (5 mL) and a 4N HCl solution in 1,4-dioxane (15 mL) was added. The resulting solution was stirred for 7 hours at room temperature and evaporated. The residue was triturated with diethyl ether and dried under vacuum to yield 1-[2-(S)-amino-3-thiophen-2-yl-propionyl]-4-biphenyl-4-ylmethyl-piperidine-4-carboxylic acid cyclohexylmethylamide as a hydrochloride salt.

reactant | 4-biphenyl-4-ylmethyl-piperidine-4-carboxylic acid cyclohexylmethylamide | 3.98 mmol, 1.7 g | C1(CCCCC1)CNC(=O)C1(CCNCC1)CC1=CC=C(C=C1)C1=CC=CC=C1 | C26H34N2O
reactant | (S)-2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionic acid | 4.63 mmol, 1.26 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC=1SC=CC1 | C12H17NO4S
reactant | N,N-diisopropyl-N-ethylamine | 13.9 mmol, 2.46 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 6.02 mmol, 2.28 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-[2-(S)-amino-3-thiophen-2-yl-propionyl]-4-biphenyl-4-ylmethyl-piperidine-4-carboxylic acid cyclohexylmethylamide | C1(CCCCC1)CNC(=O)C1(CCN(CC1)C([C@H](CC=1SC=CC1)N)=O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C33H41N3O2S
